US08486990B2
Preparation of methyl 2-chloro-5,6,7,8,9,10-hexahydrocyclohepta[b]indole-6-carboxylate:
Methyl 3-bromo-2-oxocycloheptanecarboxylate (16.8 g, 67.4 mmol) and 4-chloroaniline (18.4 g, 98%, 2.13 eq, 143.6 mmol) were added to flask with thermometer, nitrogen inlet and mechanical stirring machine. As the temperature of the mixture passed 140° C. a relatively rapid exotherm and vigorous evolution of gas occurred. The reaction was cooled with water immediately. The reaction mixture was dissolved in DCM (200 mL). The material was transferred into a separatory funnel and washed with water (2×50 mL), 3HCl (3×50 mL), water (2×50 mL), brine, dried over Na2SO4, and the solvent was removed by vacuo. The crude residue was applied to a Biotage and eluted with 9/1 heptane/ethyl acetate to afford product 10 g (53%) as an off white solid, which was used for next reaction without further purification.

reactant | Methyl 3-bromo-2-oxocycloheptanecarboxylate | 67.4 mmol, 16.8 g | BrC1C(C(CCCC1)C(=O)OC)=O | C9H13BrO3
reactant | 4-chloroaniline | 143.6 mmol, 18.4 g, 2.13 eq | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | water | O | H2O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-chloro-5,6,7,8,9,10-hexahydrocyclohepta[b]indole-6-carboxylate | 10 g, 53% | ClC=1C=C2C3=C(NC2=CC1)C(CCCC3)C(=O)OC | C15H16ClNO2
